US04923857
To a solution of oxalyl chloride (0.18 ml) in dichloromethane (10 ml) was added dropwise a solution of dimethyl sulfoxide (0.3 ml) in dichloromethane (2 ml) at -60° C. After stirring at -70° C. for 30 minutes, to the mixture was added dropwise a solution of (2S,4R)-1-allyloxycarbonyl-2-t butyldimethylsilyloxymethyl-4-hydroxypyrrolidine (0.6 g) in dichloromethane (5 ml) at -60° C. After stirring at -70° C. for 30 minutes, to the mixture was added dropwise triethylamine (1.3 ml) and the resulting mixture was allowed to warm to ° C. and diluted with ethyl acetate (150 ml) and brine. After adjusting pH to around 3 with 10% hydrochloric acid, the organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (50 ml) eluting with 15% ethyl acetate in hexane to give (2S)-1-allyloxycarbonyl-2 -t-butyldimethylsilyloxymethyl-4-oxo-pyrrolidine (0.54 g).

reactant | oxalyl chloride | 0.18 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.3 ml | CS(=O)C | C2H6OS
reactant | (2S,4R)-1-allyloxycarbonyl-2-t butyldimethylsilyloxymethyl-4-hydroxypyrrolidine | 0.6 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CO[Si](C)(C)C(C)(C)C | C15H29NO4Si
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
solvent | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
product | (2S)-1-allyloxycarbonyl-2 -t-butyldimethylsilyloxymethyl-4-oxo-pyrrolidine | 0.54 g | C(C=C)OC(=O)N1[C@@H](CC(C1)=O)CO[Si](C)(C)C(C)(C)C | C15H27NO4Si
